US07482340B2
N-(6-{2-[3-(5-Nitropyridin-2-yloxy)phenyl]chroman-6-yloxy}pyridin-3-yl)acetamide was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from N-{6-[2-(3-hydroxyphenyl)chroman-6-yloxy]pyridin-3-yl}acetamide. 1H NMR (400 MHz, d6-DMSO) δ: 10.03 (s, 1H), 9.05 (d, 1H, J 2.1 Hz), 8.63 (d, 1H, J 8.9 Hz), 8.26 (s, 1H), 8.00 (m, 1H), 7.50 (m, 1H), 7.40 (m, 1H), 7.27-7.31 (m, 2H), 7.20 (m, 1H), 6.92 (d, 1H, J 8.9 Hz), 6.85-6.87 (m, 3H), 5.17 (d, 1H, J 10.4 Hz), 2.96 (m, 1H), 2.71 (m, 1H), 2.20 (m, 1H), 2.04 (s, 3H), 1.99 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | N-{6-[2-(3-hydroxyphenyl)chroman-6-yloxy]pyridin-3-yl}acetamide | OC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=CC=C(C=N1)NC(C)=O | C22H20N2O4
product | N-(6-{2-[3-(5-Nitropyridin-2-yloxy)phenyl]chroman-6-yloxy}pyridin-3-yl)acetamide | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=CC=C(C=N1)NC(C)=O | C27H22N4O6
